Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Apple / cherry / plum
 
Attending: ___.
 
Chief Complaint:
LLE swelling and pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ w/ HTN, unprovoked DVT (in ___, currently not on AC) who 
is presenting with LLE swelling and found to have extensive DVT 
and PE.  
 Pt has had worsening LLE swelling and pain for the past week so 
she presented to the ED. She denies recent plane flights, car 
rides, malignancy, exogenous estrogen or surgeries. She has also 
had palpitation with exercise for the last 2 days. No dyspnea or 
hemoptysis.  
 In the ED, initial vitals were: 98.5 150/80 89 20 100RA  
 - Exam notable for: not documented  
 - Labs notable for: nl CBC, nl CHEM7, proBNP 218, coags nl, 
TropT<0.01  
 - EKG: rate 55, NSR, nl axis, nl R wave progression, TWI V1 and 
V2  
 - Imaging was notable for: CTA w/ large PE in right pulmonary 
artery, extending into multiple segmental branches in the right 
upper and lower lobe. Duplex US w/ extensive DVT in LLE  
 - Patient was given: heparin gtt  
 Upon arrival to the floor, VS: 97.5 138/83 76 18 99RA  
 Pt reports that she has LLE swelling and pain. Denies chest 
pain or current palpitations. No dyspnea. No fevers or chills. 
No nausea or vomiting or abdominal pain. No urinary symptoms.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 ( -) 10 point ROS revi ewed and negative unless stated above in 
HPI  

 
Past Medical History:
 - HTN  
 - h/o unprovoked DVT (warfarin ___  
 - back pain  
 - allergic rhinitis  
 - glucose intolerance  
 - ? adrenal hyperplasia  

 
Social History:
___
Family History:
no family history of blood clots. Daughter with 2 miscarriages. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 97.5 138/83 76 18 99RA  
 General: alert, oriented, no acute distress  
 HEENT: sclera anicteric, MMM, oropharynx clear  
 Neck: supple  
 Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
 CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 GU: no foley  
 Ext: warm, well perfused. Non-pitting edema on LLE. No RLE 
edema  
 Neuro: CNs2-12 grossly intact, moving all four extremities, 
A&Ox3  
 LABS: reviewed, see OMR  

DISCHARGE PHYSICAL EXAM
Vitals: 99 ___
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused. Non-pitting edema on LLE, though no 
pain/warmth/erythema. No RLE edema   

 
Pertinent Results:
ADMISSION LABS
---------------
___ 06:25PM BLOOD WBC-8.6 RBC-4.33 Hgb-12.6 Hct-38.0 MCV-88 
MCH-29.1 MCHC-33.2 RDW-13.4 RDWSD-43.3 Plt ___
___ 06:25PM BLOOD Neuts-60.4 ___ Monos-6.4 Eos-0.9* 
Baso-0.6 Im ___ AbsNeut-5.21 AbsLymp-2.73 AbsMono-0.55 
AbsEos-0.08 AbsBaso-0.05
___ 06:25PM BLOOD ___ PTT-26.7 ___
___ 06:25PM BLOOD Glucose-97 UreaN-20 Creat-1.0 Na-142 
K-4.2 Cl-104 HCO3-25 AnGap-17
___ 06:25PM BLOOD proBNP-218
___ 06:25PM BLOOD cTropnT-<0.01
___ 01:05AM BLOOD cTropnT-<0.01
___ 04:20AM BLOOD Calcium-9.5 Phos-3.8 Mg-2.3
___ 07:10PM URINE Color-Straw Appear-Clear Sp ___
___ 07:10PM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 07:10PM URINE RBC-3* WBC-1 Bacteri-FEW Yeast-NONE 
Epi-<1

MICROBIOLOGY
------------
___ 7:10 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
--------
CTA CHEST ___:   
1. Extensive PE within the write pulmonary arterial tree 
described above with 
CT findings of right-sided heart failure. Main pulmonary artery 
measures 3.0 
cm, which can be seen in pulmonary hypertension. 
2. 6 mm pulmonary nodule is seen in the right upper lobe, 
unchanged since 
___. 
3. Small hiatal hernia. 
  
RECOMMENDATION(S):  The ___ pulmonary nodule 
recommendations 
are intended as guidelines for follow-up and management of newly 
incidentally 
detected pulmonary nodules smaller than 8 mm, in patients ___ 
years of age or 
older. Low risk patients have minimal or absent history of 
smoking or other 
known risk factors for primary lung neoplasm. High risk patients 
have a 
history of smoking or other known risk factors for primary lung 
neoplasm. 
  
In the case of nodule size >4 - 6 mm: For low risk patients, 
follow-up at 12 
months and if no change, no further imaging needed. For high 
risk patients, 
initial follow-up CT at ___ months and then at ___ months if 
no change. 
  
BILATERAL LOWER EXTREMITY DOPPLER ULTRASOUND ___:
1.  Extensive DVT within the left leg extending from the left 
groin through 
the upper calf, detailed above. 
2.  No deep venous thrombosis in the right lower extremity 
veins. 

ECHO ___:
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%). Right ventricular chamber size 
and free wall motion are normal. Tricuspid annular plane 
systolic excursion is normal (3.0 cm; nl>1.6cm) consistent with 
normal right ventricular systolic function. RV S' > 9.5 cm/sec 
corroborating normal RV systolic free wall function. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis. Trace aortic regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is 
borderline pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: 
1) Normal biventricular regional/global systolic function.
2) There appears the be normal RV size and function. TR jet 
velocities likely underestimate the extent of RV afterload 
elevation. The pulmonary acceleration time is < 100 ms 
suggestive of elevated pulmonary vascular resistance.  

DISCHARGE/INTERVAL LABS
___ 06:00AM BLOOD WBC-6.0 RBC-3.72* Hgb-10.9* Hct-32.9* 
MCV-88 MCH-29.3 MCHC-33.1 RDW-13.6 RDWSD-43.8 Plt ___
___ 06:00AM BLOOD Glucose-85 UreaN-23* Creat-1.1 Na-144 
K-3.9 Cl-105 HCO3-27 AnGap-16
___ 06:00AM BLOOD Calcium-9.3 Phos-4.1 Mg-2.___ y/o F with hx of unprovoked DVT (in ___, previously on 
Coumadin x 6 months, not currently on anticoagulation) who 
presents with LLE swelling and was found to have an extensive 
DVT and submassive PE. 

# Submassive pulmonary embolism
# Left lower extremity deep venous thrombosis: Patient was found 
to have an extensive left lower extremity DVT and large 
pulmonary embolus in the right main pulmonary artery, extending 
into multiple segmental branches in the right upper and lower 
lobe. Patient presented with left lower extremity swelling and 
pain, as well as palpitations on exertion. EKG with evidence of 
right heart strain (TWI in V1 and V2). Troponins x 2 were 
negative. BNP was normal. TTE showed normal RV size and function 
(though TR jet velocities likely underestimate the extent of RV 
afterload elevation. The pulmonary acceleration time is < 100 ms 
suggestive of elevated pulmonary vascular resistance). Home 
anti-hypertensive medications were held during her stay. She was 
started on a heparin gtt and remained hemodynamically stable 
throughout her hospital stay. Etiology of this current DVT/PE 
remains unclear. She denied prolong sedentary periods (i.e. long 
plane/car rides), history of malignancy, smoking history, or use 
of estrogen containing medications. Given that this is her 
second unprovoked DVT, she will likely need life-long 
anticoagulation. She has been started on Xarelto prior to 
discharge.

CHRONIC ISSUES: 
===============
# Hypertension: Home anti-hypertensive medications were held 
during her hospital stay in the setting of her sub-massive PE. 
They were restarted on discharge. 

# Hyperlipidemia: Continue atorvastatin 

TRANSITIONAL ISSUES
====================
[ ] Will likely need lifelong anticoagulation as this is her 
second unprovoked VTE
[ ] Consider outpatient hypercoagulability workup as this is her 
second unprovoked VTE
[ ] Started on Xarelto prior to discharge 15 mg twice per day 
(with food each time) through ___, then on 
___ to 20 mg of Xarelto daily.
[ ] CTA chest revealed: 6 mm pulmonary nodule seen in the right 
upper lobe, unchanged since ___. The ___ 
___ pulmonary nodule recommendations are intended as 
guidelines for follow-up and management of newly incidentally 
detected pulmonary nodules smaller than 8 mm, in patients ___ 
years of age or older. Low risk patients have minimal or absent 
history of smoking or other 
known risk factors for primary lung neoplasm. High risk patients 
have a history of smoking or other known risk factors for 
primary lung neoplasm. In the case of nodule size >4 - 6 mm: For 
low risk patients, follow-up at 12 
months and if no change, no further imaging needed. For high 
risk patients, 
initial follow-up CT at ___ months and then at ___ months if 
no change. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Potassium Chloride 20 mEq PO DAILY 
5. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
with food 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*42 Tablet Refills:*0 
2.  Rivaroxaban 20 mg PO DAILY 
take with food 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*2 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Diltiazem Extended-Release 240 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  Potassium Chloride 20 mEq PO DAILY 
Hold for K >  
8.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Submassive pulmonary embolism

Secondary diagnoses:
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ after you were found to have a 
blood clot in your left leg that had traveled to your lungs. You 
remained stable while hospitalized and were treated with a blood 
thinning medication administered through an IV.

It is unclear why you developed this blood clot. Since this is 
the second time you have experienced an unprovoked blood clot, 
you will likely need to take this blood thinning medication 
indefinitely.

You have been started on the following blood thinning 
medication: Xarelto. 
1) After you are discharged, you should take 15 mg of Xarelto 
twice per day (with food each time) through ___
2) On ___, you should take 20 mg of Xarelto, once per day 
with a meal. You will likely be on this medication indefinitely 
but should speak with your PCP about this matter.

It is important that you attend your follow-up appointments 
listed below.

It was a pleasure taking care of you! We wish you the best!

Your ___ Team
 
Followup Instructions:
___